US04622318
To a solution of 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer) in N,N-dimethylformamide (30 ml) was added cesium carbonate (0.47 g). The mixture was stirred for 30 minutes at 25° C., and 1-bromoethyl acetate (1.35 g) was added dropwise thereto at 0°-3° C. After stirring for 1 hour, the reaction mixture was poured into ethyl acetate (200 ml) and the insoluble material was filtered off. The filtrate was washed with water (200 ml×2), an aqueous solution of sodium bicarbonate (100 ml×1) and a saturated aqueous solution of sodium chloride successively, and dried over magnesium sulfate. The ethyl acetate was distilled off under reduced pressure, and the residue was pulverized with diisopropyl ether to give 1-acetoxyethyl 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (0.63 g).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylic acid | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)O)C1=O)=NOCC=C | C23H22N6O5S3
reactant | cesium carbonate | 0.47 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromoethyl acetate | 1.35 g | C(C)(=O)OC(C)Br | C4H7BrO2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-acetoxyethyl 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 0.63 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C)OC(C)=O)C1=O)=NOCC=C | C27H28N6O7S3
